US07141583B2
5-Amino-2-(1,4-dioxa-8-azaspiro[4,5]dec-8-yl)fluorobenzene
4-(1,4-Dioxa-8-azaspiro[4,5]dec-8-yl)-3-fluoronitrobenzene (24.48 g, 0.087 M) was dissolved in ethyl acetate (500 ml) treated with palladium catalyst (10% on carbon, 5 g) and hydrogenated at atmospheric pressure until the theoretical uptake of gas. After filtration through celite and evaporation, the required product was obtained as a pink solid of sufficient quality for use without purification (19.3 g).

reactant | 4-(1,4-Dioxa-8-azaspiro[4,5]dec-8-yl)-3-fluoronitrobenzene | 0.087 M, 24.48 g | O1CCOC12CCN(CC2)C2=C(C=C(C=C2)[N+](=O)[O-])F | C13H15FN2O4
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 5 g | [Pd] | Pd
product | 5-Amino-2-(1,4-dioxa-8-azaspiro[4,5]dec-8-yl)fluorobenzene | NC=1C=CC(=C(C1)F)N1CCC2(OCCO2)CC1 | C13H17FN2O2
